US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-carbamoyl-phenyl)-cyclopropyl]-amide (16)
A solution of 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester (70.0 mg, 0.163 mmol) in a 7M solution of ammonia in methanol (1.00 mL, 7.00 mmol) is stirred at 120° C. in a sealed pressure tube. After 78 hours, the reaction vessel is cooled to room temperature, vented and opened. The reaction mixture is concentrated in vacuo, and the resulting residue is purified by silica gel chromatography eluting with a gradient of 0-10% methanol in methylene chloride to afford the title compound a solid.

reactant | 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester | 0.163 mmol, 70.0 mg | COC(C1=CC(=CC=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)=O | C24H19FN4O3
reactant | ammonia | N | H3N
reactant | methanol | 7.00 mmol, 1.00 mL | CO | CH4O
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-carbamoyl-phenyl)-cyclopropyl]-amide | C(N)(=O)C=1C=C(C=CC1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C23H18FN5O2
